US07511144B2
To a solution of 1.39 g (7.85 mmol) of 3-(6-methylpyridin-2-yl)acrylic acid ethyl ester in methanol (50 mL) was added 200 mg of 10% palladium-carbon, and stirred for 4 hours at room temperature under an atmosphere of hydrogen. The solution was filtered through Celite and the obtained filtrate was concentrated under a reduced pressure. The residue was purified by silica gel chromatography (developing solvent; hexane:ethyl acetate=3:1 to 2:1) to obtain 1.09 g (6.09 mmol) of 3-(6-methylpyridin-2-yl)propionic acid ethyl ester (IX-129) as colorless oil. Its physical property is shown below.

reactant | 3-(6-methylpyridin-2-yl)acrylic acid ethyl ester | 7.85 mmol, 1.39 g | C(C)OC(C=CC1=NC(=CC=C1)C)=O | C11H13NO2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | 3-(6-methylpyridin-2-yl)propionic acid ethyl ester | 6.09 mmol, 1.09 g | C(C)OC(CCC1=NC(=CC=C1)C)=O | C11H15NO2
